US06458952B1
EX-1B) A solution of 1-Benzyl-3-methoxycarbonylmethyl-5-nitro-2,4(1H,3H) pyrimidinedione (EX-1A; 6.30 g, 19.74 mmol) in 100.0 mL methanol was degassed with hydrogen gas. The solution was then added 5% Pd/C (0.737 g) and allowed to stir under an atmosphere of hydrogen at room temperature for 24 hours. The crude reaction was filtered through a pad of Celite 545 and concentrated under reduced pressure. The oil was purified by MPLC (60% Ethyl acetate/hexanes) to give pure 5-amino-1-Benzyl-3-methoxycarbonylmethyl-2,4(1H,3H)-pyrimidinedione (EX-1B) in 63% yield as a tan solid: 1H NMR (300 MHz, DMSO) δ7.41-7.28 (m, 5H), 6.93 (s, 1H), 4.93 (s, 2H), 4.66 (s, 2H), 4.32 (s, 2H), 3.69 (s, 3H); HRMS (ES) calcd for C14H16N3O4 290.1141, found 290.1138.

reactant | 1-Benzyl-3-methoxycarbonylmethyl-5-nitro-2,4(1H,3H) pyrimidinedione | 19.74 mmol, 6.30 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1)[N+](=O)[O-])=O)CC(=O)OC)=O | C14H13N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100.0 mL | CO | CH4O
catalyst | Pd/C | 0.737 g | [Pd] | Pd
product | 5-amino-1-Benzyl-3-methoxycarbonylmethyl-2,4(1H,3H)-pyrimidinedione | 63% yield | NC=1C(N(C(N(C1)CC1=CC=CC=C1)=O)CC(=O)OC)=O | C14H15N3O4
